US07470680B2
(S)-1,4-dichloro-7-(2-oxo-2-(4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(1,4-Dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (110 mg, 0.268 mmol) was dissolved in N,N-dimethylformamide (2.0 ml). N,N-Diisopropylethylamine (150 μl, 0.861 mmol) was added to the mixture followed successively by TBTU (92 mg, 0.287 mmol) and 1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride (92 mg, 0.316 mmol). Reaction stirred at room temperature for 5 hours. Reaction was quenched with 50% acetonitrile-water. Material was purified by prep HPLC (water-acetonitrile-trifluoroacetic acid). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 70% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.89 (s, 1H) 11.55 (s, 1H) 7.90 (dd, J=5.19, 1.22 Hz, 1 H) 7.64 (dd, J=70.19, 7.93 Hz, 1H) 7.35 (s, 1H) 6.99 (dd, J=7.78, 5.34 Hz, 0.4H) 6.90 (dd, J=7.93, 5.19 Hz, 0.6H) 5.44 (d, J=4.88 Hz, 2H) 4.35-4.62 (m, 3H) 3.95-4.32 (m, 3H) 3.15-3.28 (m, 2H) 2.85-3.12 (m, 2H) 2.61-2.76 (m, 1H) 2.20-2.47 (m, 2H) 1.93-2.12 (m, 1H) 1.64-1.87 (m, 2H). High resolution MS m/e (M+H)+=610.1328.

reactant | (S)-2-(1,4-Dichloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.268 mmol, 110 mg | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CC(F)(F)F)Cl | C15H12Cl2F3N3O3
reactant | N,N-Diisopropylethylamine | 0.861 mmol, 150 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.287 mmol, 92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride | 0.316 mmol, 92 mg | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | (S)-1,4-dichloro-7-(2-oxo-2-(4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 70% yield | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(N3CCC(CC3)N3C(NC1=NC=CC=C13)=O)=O)=O)CC(F)(F)F)Cl | C26H24Cl2F3N7O3
